2102-12-02 05:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2101-11-30**]
   - DNR/DNI, limited to current IV
   - minimal sticks/labs drawn
   - MSSA switched to Nafcillin, however not run due to line issues.
   - Lasix drip changed to bolus for low urine output
   Allergies:
   Sedatives
   Barbiturate
   Classifier
   unable to wake
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-1**] 10:00 AM
   Gentamicin - [**2102-12-1**] 12:43 PM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2102-12-2**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-2**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 98.5
C (209.3
   Tcurrent: 35.4
C (95.8
   HR: 103 (95 - 144) bpm
   BP: 107/59(70) {92/47(58) - 141/99(191)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  1,041 mL
                                                                    325 mL
   PO:
                                                                    510 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    531 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    190 mL
   Urine:
                                                                  1,880 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -839 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Thin elderly woman moaning
   HEENT Sclera anicteric, conjunctiva pale, dry MM
   Neck +JVD
   Pulm Lungs with occasional wheeze bilaterally (exam limited by patient
   pain on movement)
   CV Tachycardic irregular S1 S2 soft systolic murmur at apex
   Abd Soft nontender +bowel sounds
   Extrem Warm 2+ distal pulses 2+ bilateral LE edema. L shoulder very
   tender to light touch.
   Neuro Alert and awake, oriented x3 and attention intake. Moving all
   extremities.
   Derm No peripheral stigmata of endocarditis
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   This [**Age over 90 **]F with h/o afib, breast CA, and hypothyroidism was admitted
   following a mechanical fall and found to be in rapid atrial fib. She
   was subsequently found to have a high grade S. Aureus bacteremia,
   presumably secondary to endocarditis. She is transferred to the MICU
   secondary to increased respiratory distress.
   .
   1. Respiratory distress
   Review of flow sheet suggests that O2 requirement has been more
   progressive in nature than abrupt in onset. In the setting of weight
   gain with net positive I/O, suspect that pulmonary edema may be
   contributory. On the other hand her CXR shows asymmetric opacification
   of the right hemithorax less classic  for edema - potentially worrisome
   for a pneumonia or mucus plugging for example. Evidence for pna
   otherwise not very compelling without cough, sputum, or fever. In the
   setting of suspected endocarditis, septic pulmonary emboli are a
   concern as well. Think ACS or (non-septic) PE less likely. Rapid afib
   could be contributing to SOB in additionl.
   - Trial of diuresis goal -1 to 2L negative today as BP tolerates,
   strict I/O, daily weight. Check PM lytes
   - Will add empiric levofloxacin and flagyl for possible ?aspiration pna
   to patient's existing vanc and gent
   - Rate control afib as below
   - Nebs prn
   .
   2. Atrial fibrillation with RVR
   Rate very poorly controlled on the floor, though she initially
   responded to dilt drip in ED. Limited response to PO metoprolol, IV
   dilt boluses. PO med absorption might be lower in setting of gut edema.
   TSH WNL this admission. Volume overload and hyperadrenergic state may
   be contributory.
   - Restart dilt drip, DC metoprolol
   - Discuss with cards re ?amiodarone versus digoxin.
   - Given age and falling suspect she is not an appropriate candidate for
   anticoagulation, but will review medical history  further. Would also
   further discuss possibility of cardioversion with cards.
   .
   3. Staph aureus bacteremia
   Highly concerning for endocarditis, though no obvious vegetation seen
   on TTE.
   - Continue vancomycin and gentamicin per ID recommendations, following
   peaks and troughs.
   - Daily surveillance blood cultures til clears
   .
   4. Septic arthritis
   Orthopedics following, will need repeat shoulder aspiration if not
   improving in next 1-2 days per ortho; no imminent plans for washout.
   - Pain control with standing tylenol and breakthrough oxycodone
   .
   5. Hypertension
   Holding home amlodipine and lisinopril in setting of rapid afib.
   .
   FEN NPO pending stabilization
   Access only EJ currently, needs additional PIV
   PPX PPI, heparin SQ
   Dispo ICU
   Code DNR/DNI confirmed with son
   Communication [**Name (NI) **] [**Name (NI) 512**] [**Name (NI) 3915**] [**Telephone/Fax (1) 3916**] HCP
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-12-1**] 04:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-12-02 12:25:00 Physician Attending Progress Note
Chief Complaint: Endocarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued discussions with palliative care team in regards to
   determination of the goals of care.
   -Patient refuse blood draw this morning
   History obtained from Medical records
   Allergies:
   Sedatives
   Barbiturate
   Classifier
   unable to wake
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-1**] 10:00 AM
   Gentamicin - [**2102-12-1**] 12:43 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2102-12-2**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2102-12-2**] 08:00 AM
   Omeprazole (Prilosec) - [**2102-12-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 99.4
   Flowsheet Data as of  [**2102-12-2**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.6
C (96
   HR: 87 (87 - 119) bpm
   BP: 110/45(61) {104/45(56) - 136/64(87)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  1,041 mL
                                                                    864 mL
   PO:
                                                                    510 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    531 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    345 mL
   Urine:
                                                                  1,880 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -839 mL
                                                                    519 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
   Microbiology: MSSA
   Assessment and Plan
   [**Age over 90 **] yo female admit following mechanical fall and now with endocarditis
   and persistent bacteremia have had limited capacity to clear
   significant bacteremia.  This has been persistent despite antibiotics
   for prolonged course and she has issues of limited IV access and
   currently changed to CTX IV for antibiotic coverage.  In this setting
   there has been limited fevers but some intermittent positive cultures.
   1)Endocarditis--no clear focal sources found for inital insult but with
   persistent bacteremia suggesting ongoing insult with MSSA endocarditis
   -Levofloxacin
   -CTX IV
   -Will continue to follow up culture results
   -Will need improved IV access for antibiotic administration
ideal would
   be PCN based [**Doctor Last Name **] but unable to be compatible with Dilt gtt.
   2) ATRIAL FIBRILLATION (AFIB)-
   -Dilt gtt to continue
   -[**Month (only) 8**] move to additional agents to allow Dilt to wean off.
   -Dilt po needed to be transitioned to it today
will move to po Dilt
   today.
   3) PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)-
   Tylenol TID
   ICU Care
   Nutrition: po diet
soup without noodles perfered
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-12-1**] 04:06 PM
Will need PICC catheter for antibiotics
   over long term course if desired.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2102-12-03 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Discussed with patient and family goals of care.  The patient would
   like to continue to fight the infection.  They are going to discuss
   more, but likely will want to continue therapy
   - Able to wean dilt drip with increasing oral dilt dosing, started
   Metoprolol 12.5mg TID in addition to diltiazem oral
   - Pt is more willing to allow care, allowed blood draws
   - Replaced K with 40mEq
   - decreased UOP to 10cc/hr.  Gave bolus of 500cc of NS over 2 hours
   with appropriate increase in UOP to 25cc/hr
   - Pt then had desaturations down to 85 on 6L NC, gave 20mg of IV lasix
   following
   Allergies:
   Sedatives
   Barbiturate
   Classifier
   unable to wake
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-1**] 10:00 AM
   Gentamicin - [**2102-12-1**] 12:43 PM
   Ceftriaxone - [**2102-12-2**] 12:00 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2102-12-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2102-12-3**] 12:00 AM
   Morphine Sulfate - [**2102-12-3**] 01:00 AM
   Furosemide (Lasix) - [**2102-12-3**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-3**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 107 (85 - 130) bpm
   BP: 112/64(92) {101/40(56) - 125/64(116)} mmHg
   RR: 13 (12 - 23) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  2,027 mL
                                                                    567 mL
   PO:
                                                                  1,680 mL
             TF:
   IVF:
                                                                    347 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                    719 mL
                                                                    470 mL
   Urine:
                                                                    719 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,308 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   General Thin elderly woman in NAD
   HEENT Sclera anicteric, conjunctiva pale, dry MM
   Neck +JVD
   Pulm Lungs with occasional wheeze bilaterally (exam limited by patient
   pain on movement)
   CV Tachycardic irregular S1 S2 soft systolic murmur at apex
   Abd Soft nontender +bowel sounds
   Extrem Warm 2+ distal pulses 2+ bilateral LE edema. L shoulder very
   tender to light touch.
   Neuro Alert and awake, oriented x3 and attention intake. Moving all
   extremities.
   Derm No peripheral stigmata of endocarditis
   Labs / Radiology
   309 K/uL
   13.3 g/dL
   141 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.3 mEq/L
   35 mg/dL
   107 mEq/L
   138 mEq/L
   37.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2102-12-2**]  09:16 PM
   WBC
   9.7
   Hct
   37.9
   Plt
   309
   Cr
   1.0
   Glucose
   141
   Other labs: PT / PTT / INR:14.4/29.8/1.3, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This [**Age over 90 **]F with h/o afib, breast CA, and hypothyroidism was admitted
   following a mechanical fall and found to be in rapid atrial fib. She
   was subsequently found to have a high grade S. Aureus bacteremia,
   secondary to endocarditis. She was transferred to the MICU secondary to
   increased respiratory distress.
   .
   #. Staph aureus bacteremia/ Endocarditis:  All blood cultures positive
   for methacillin sensitive staph aureus.  The patient is refusing PICC
   placement.  She would need to be treated for 6 weeks at least for
   endocarditis.  The palliative care team was consulted and the family is
   deciding whether to go down the route of treating with antibiotics for
   6 weeks with PICC placement or making the patient comfort measures
   only.
   -Discussed with ID, will stop all abx and start Cephazolin 2 gm IV Q8,
   with Gentamicin 1mg/kg Q 8 hours and trough after 3^rd dose
   -Will need PICC
   #. Respiratory distress:  Most likely secondary to endocarditis, septic
   emboli and volume overload in the setting of A fib with RVR.
   - Diuresed yesterday with appropriate response, will repeat 40 mg Lasix
   IV.
   - Rate control A fib per below
   - Monitor Oxygen requirement
   .
   #. Atrial fibrillation with RVR:  Started on diltiazem drip with
   appropriate response.
   - PO diltiazem yesterday worked well until AM
   - Increase Metoprolol to 25 mg PO TID
   - No anticoagulation at this point.  Cardiology consulted, would not
   recommend cardioversion.
   .
   4. Septic arthritis
   Orthopedics following, will need repeat shoulder aspiration if not
   improving in next 1-2 days per ortho; no imminent plans for washout.
   - Pain control with standing tylenol and breakthrough oxycodone
   .
   5. Hypertension:  Restarted captopril instead of lisinopril.
   Holding home amlodipine in setting of rapid afib.
   .
   FEN regular diet, replete lytes as needed
   Access only EJ currently, needs additional PIV, however patient is
   refusing
   PPX PPI, heparin SQ, pneumoboots
   Dispo ICU
   Code DNR/DNI confirmed with son
   Communication [**Name (NI) **] [**Name (NI) 512**] [**Name (NI) 3915**] [**Telephone/Fax (1) 3916**] HCP
 ELECTROLYTE & FLUID DISORDER, OTHER
 ATRIAL FIBRILLATION (AFIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-12-1**] 04:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: